US07169926B1
3-Benzyloxycarbonylamino-cyclohexanecarboxylic acid (0.277 g, 1.0 mmol), TEA (0.10 g, 1.0 mmol), and HOBt (0.135 g, 1.0 mmol) were added sequentially to a stirred solution of 3,4-diamino-1-methyl-1H-[1,8]naphthyridin-2-one (0.19 g, 1.0 mmol) in DMF (8 mL) at room temperature. The solution was cooled to 0° C. and EDCI (0.19 g, 1.0 mmol) was added. The resulting solution was allowed to stir, with warming to room temperature, for 17 h. The mixture was diluted with water (5 mL) and extracted with CH2Cl2, dried with MgSO4, and concentrated. The residue was purified by flash chromatography eluting with 5% MeOH in CH2Cl2 to give [3-(4-amino-1-methyl-2-oxo-1,2-dihydro-[1,8]naphthyridin-3-ylcarbamoyl)-cyclohexyl]carbamic acid benzyl ester (55 mg, 12% yield), and 60 mg (32%) of unreacted diamine. 1H-NMR (CDCl3): δ 8.59 (m, 1H), 8.21 (m, 1H), 7.91 (m, 1H), 7.33 (m, 6H), 7.20 (dd, 1H, J=8.0, 4.8), 5.51 (m, 2H), 5.12 (m, 2H), 4.76 (m, 1H), 4.10 (m, 1H), 3.81 (s, 3H), 2.60 (m, 1H), 2.33 (m, 1H), 1.93–2.05 (m, 3H), 1.73 (m, 2H), 1.45 (m, 2H). MS: calculated for C24H27N5O4+H 450.2; found: 450.5.

reactant | 3-Benzyloxycarbonylamino-cyclohexanecarboxylic acid | 1.0 mmol, 0.277 g | C(C1=CC=CC=C1)OC(=O)NC1CC(CCC1)C(=O)O | C15H19NO4
reactant | HOBt | 1.0 mmol, 0.135 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4-diamino-1-methyl-1H-[1,8]naphthyridin-2-one | 1.0 mmol, 0.19 g | NC=1C(N(C2=NC=CC=C2C1N)C)=O | C9H10N4O
reactant | EDCI | 1.0 mmol, 0.19 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | [3-(4-amino-1-methyl-2-oxo-1,2-dihydro-[1,8]naphthyridin-3-ylcarbamoyl)-cyclohexyl]carbamic acid benzyl ester | 55 mg, 12% yield | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C(NC=1C(N(C2=NC=CC=C2C1N)C)=O)=O)=O | C24H27N5O4
